US04950677
A solution of 9.4 g of 2-(chloromethyl)-3-methyl-4-nitropyridine and 10 g of 5-(trifluoromethyl)-2-benzimidazolethiol in 260 ml of abs. acetone was treated with 3 g of finely ground potassium carbonate and stirred at room temperature under argon for 18 hours. 180 ml of acetone were distilled off in a vacuum, whereupon the remaining portion of the reaction mixture was poured on to ice. The crystallized-out product was filtered off and dried at 35° in a drying oven By recrystallization from ethyl acetate/n-hexane there was obtained 2-[[(3-methyl-4-nitro 2-pyridyl)methyl]thio]-5-(trifluoromethyl)benzimidazole of melting point 192°-193°.

reactant | 2-(chloromethyl)-3-methyl-4-nitropyridine | 9.4 g | ClCC1=NC=CC(=C1C)[N+](=O)[O-] | C7H7ClN2O2
reactant | 5-(trifluoromethyl)-2-benzimidazolethiol | 10 g | FC(C1=CC2=C(N=C(N2)S)C=C1)(F)F | C8H5F3N2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-[[(3-methyl-4-nitro 2-pyridyl)methyl]thio]-5-(trifluoromethyl)benzimidazole | CC=1C(=NC=CC1[N+](=O)[O-])CSC=1NC2=C(N1)C=CC(=C2)C(F)(F)F | C15H11F3N4O2S
